US08350029B2
Preparation of 6-(3-chloropropoxy)-7-methoxyquinazoline-4-one (Formula V)
2-amino-4-methoxy-5-(3-chloropropoxy)benzoic acid (450 gm), formamide (2250 ml) and ammonium formate (200 gm) were heated to 170-180° C. for 3-4 hours. The reaction mass was concentrated under reduced pressure at 140-150° C. The residue was stirred in methanol (1000 ml) at 45-50° C. and cooled to 5-10° C. The solid obtained was filtered to yield the title compound (420 gm, 90% yield).

reactant | 2-amino-4-methoxy-5-(3-chloropropoxy)benzoic acid | 450 gm | NC1=C(C(=O)O)C=C(C(=C1)OC)OCCCCl | C11H14ClNO4
reactant | ammonium formate | 200 gm | C(=O)[O-].[NH4+]
solvent | formamide | 2250 ml | C(=O)N | CH3NO
product | 6-(3-chloropropoxy)-7-methoxyquinazoline-4-one | 420 gm, 90% yield | ClCCCOC=1C=C2C(NC=NC2=CC1OC)=O | C12H13ClN2O3
